US04366096
(g) Aluminum Chloride Hydrate - Thiourea Solution
In a 5 liter flask is placed 482.8 g. (2.0 mole) aluminum chloride hexahydrate and 1826.8 g. (24.0 moles) thiourea and shaken to mix. To this is added 2284 g. (127 moles) water and heated with stirring to 72° C. to obtain a clear, colorless solution. White crystals form upon cooling leaving a clear solution of pH 1.7 and a final weight of 4592 g.

reactant | aluminum chloride hexahydrate | 2.0 mole | O.O.O.O.O.O.[Cl-].[Al+3].[Cl-].[Cl-]
reactant | thiourea | 24.0 moles | NC(=S)N | CH4N2S
reactant | water | 127 moles | O | H2O
product | Aluminum Chloride Hydrate Thiourea | O.[Cl-].[Al+3].[Cl-].[Cl-].NC(=S)N | InChI=1S/CH4N2S.Al.3ClH.H2O/c2-1(3)4;;;;;/h(H4,2,3,4);;3*1H;1H2/q;+3;;;;/p-3
